US06380387B1
A suspension of sulfuric acid (0.3 mL), water (36 mL) and N-(benzyloxycarbonyl)-4-amino-3-methyl-L-phenylalanine methyl ester hydrochloride salt (2.9 mmol, 1.1 g) was heated to obtain a clear solution. Then, it was cooled to −1° C. (ice-bath) and a solution of sodium nitrite (5.8 mmol, 400 mg) in water (8 mL) was added dropwise. The reaction mixture was stirred for 30 min, and a solution of potassium iodide (8.7 mmol, 1.5 g) in water (6 mL) was added to obtain a brown suspension. After stirring for 30 min, the reaction mixture was allowed to warm to room temperature and was stirred for 1 h. Then, the reaction mixture was diluted with water (100 mL) and was extracted with ethyl acetate (3×50 mL). The combined extracts were washed with saturated sodium bisulfite solution (100 mL) and brine solution (100 mL) and were dried over anhydrous magnesium sulfate. Filtration of the drying agent and concentration gave a crude product, which was purified by silica gel chromatography using a Biotage (40m) column to afford 0.84 g (64% yield) of N-(benzyloxycarbonyl)-4-iodo-3-methyl-L-phenylalanine methyl ester as an amorphous white solid. ES-HRMS m/e calcd for C19H20INO4 (M+Na) 476.0329, found 476.0336.

reactant | sulfuric acid | 0.3 mL | S(O)(O)(=O)=O | H2O4S
reactant | N-(benzyloxycarbonyl)-4-amino-3-methyl-L-phenylalanine methyl ester hydrochloride salt | 2.9 mmol, 1.1 g | Cl.COC([C@@H](NC(=O)OCC1=CC=CC=C1)CC1=CC(=C(C=C1)N)C)=O
reactant | sodium nitrite | 5.8 mmol, 400 mg | N(=O)[O-].[Na+]
reactant | potassium iodide | 8.7 mmol, 1.5 g | [I-].[K+]
solvent | water | 8 mL | O | H2O
solvent | water | 6 mL | O | H2O
solvent | water | 100 mL | O | H2O
solvent | water | 36 mL | O | H2O
product | N-(benzyloxycarbonyl)-4-iodo-3-methyl-L-phenylalanine methyl ester | 0.84 g, 64% yield | COC([C@@H](NC(=O)OCC1=CC=CC=C1)CC1=CC(=C(C=C1)I)C)=O | C19H20INO4
